US09126970B2
Step e): 6,13-Bisbiphenyl-4-yl-11,11-dimethyl-11,13-dihydro-6H-6,13-diazaindeno[1,2-b]anthracene
20.0 g (67.0 mmol) of 11,11-dimethyl-11,13-dihydro-6H-6,13-diazaindeno-[1,2-b]anthracene and 46.8 g (201.1 mmol) of 4-bromobiphenyl are dissolved in 250 ml of toluene and degassed. 4.69 ml (4.69 mmol/1 M in toluene) of tri-tert-butylphosphine, degassed 19.3 g (201 mmol) of NaOtBu and 601 mg (2.68 mmol) of Pd(OAc)2 are added, the mixture is subsequently degassed and heated under reflux for 10 h. When the reaction is complete, the warm mixture is filtered through Alox B (activity grade 1), washed with water, dried and evaporated. The residue is purified using toluene/heptane (1:1) in a Soxhlet extractor and crystallised from toluene, giving, after sublimation, 21.8 g (54%) of the product as a yellowish solid having a purity of 99.9%.

reactant | 11,11-dimethyl-11,13-dihydro-6H-6,13-diazaindeno-[1,2-b]anthracene | 67.0 mmol, 20.0 g | CC1(C=2C=C3C(=CC2NC=2C=CC=CC12)C1=CC=CC=C1N3)C | C21H18N2
reactant | 4-bromobiphenyl | 201.1 mmol, 46.8 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | tri-tert-butylphosphine | 4.69 mmol, 1 M, 4.69 ml | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaOtBu | 201 mmol, 19.3 g | CC(C)(C)[O-].[Na+]
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 2.68 mmol, 601 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6,13-Bisbiphenyl-4-yl-11,11-dimethyl-11,13-dihydro-6H-6,13-diazaindeno[1,2-b]anthracene | C1(=CC=C(C=C1)N1C=2C=CC=CC2C(C=2C=C3C(=CC12)C1=CC=CC=C1N3C3=CC=C(C=C3)C3=CC=CC=C3)(C)C)C3=CC=CC=C3 | C45H34N2
